US04675334
1-[2-Hydroxy-3-propyl-4-(4-bromomethylphenylmethoxy)phenyl]ethanone
To a solution of 1-(2,4-dihydroxy-3-propyl phenyl) ethanone (10.0 g; 0.051 m) in dry methylethyl ketone (100 ml) was added dried anhydrous sodium carbonate (27 g; 5 mol. eq) and sodium iodide (0.5 g). To the stirred suspension was then added α,α'-dibromo-p-xylene (13.5 g; 0.051 m) and the suspension gently heated at reflux for five hours. The cooled suspension was evaporated under reduced pressure, the residue dissolved in water and extracted with dichloromethane (×2). The organic extract was washed with aqueous sodium hydroxide (2N), then water, dried over magnesium sulphate, filtered, and evaporated to dryness under reduced pressure to give a yellow solid. The solid was stirred with ether (200 ml) for 1 hour and filtered to remove any disubstituted impurity. The filtrate was evaporated under reduced pressure to leave a yellow solid. The solid was chromatographed on a U30 Sorbsil solumn using dichloromethane to give a white solid; recrystallised from ethanol, m.p. 98°-99° C.

reactant | 1-(2,4-dihydroxy-3-propyl phenyl) ethanone | 10.0 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | sodium carbonate | 5 mol, 27 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.5 g | [I-].[Na+]
reactant | α,α'-dibromo-p-xylene | 13.5 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
solvent | methylethyl ketone | 100 ml | CC(=O)CC | C4H8O
solvent | ether | 200 ml | CCOCC | C4H10O
product | 1-[2-Hydroxy-3-propyl-4-(4-bromomethylphenylmethoxy)phenyl]ethanone | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)CBr)C(C)=O | C19H21BrO3
